US06756378B2
To a stirred solution of methyl (2S, 4R)-4-[4-benzyloxy-1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3-nitrobenzoate (681 mg, 1.4 mmol) in CH2Cl2 (2 mL) was added TFA (2 mL), and the resulting mixture was stirred for 2 hr. After the reaction mixture was concentrated, the residue was made basic by the addition of sat. NaHCO3 and extracted with CHCl3. The extract was washed with H2O, dried over MgSO4, and evaporated to give 511 mg (95%) methyl (2S, 4R)-4-[4-benzyloxy-2-pyrrolidinyl]methoxy-3-nitrobenzoate as a yellow oil.

reactant | methyl (2S, 4R)-4-[4-benzyloxy-1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3-nitrobenzoate | 1.4 mmol, 681 mg | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C25H30N2O8
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl (2S, 4R)-4-[4-benzyloxy-2-pyrrolidinyl]methoxy-3-nitrobenzoate | 511 mg, 95% | C(C1=CC=CC=C1)O[C@@H]1C[C@H](NC1)COC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C20H22N2O6
